US08183240B2
A mixture of 4-cyano-3-(2,4-dichlorophenyl)-5-(2-(fluoromethyl)morpholino)thiophene-2-carboxylic acid (68.0 mg, 0.000164 mol), 33% ammonium hydroxide (33:67, ammonia:water, 0.1416 mL), EDCI (94.2 mg, 0.000491 mol) and 1-HOBT (66.4 mg, 0.000491 mol) in DCM (7 mL, 0.1 mol) was stirred at it overnight. The reaction mixture was diluted with DCM and washed with water, the organic layer was dried and purified by column chloromatography to afford 4-cyano-3-(2,4-dichlorophenyl)-5-(2-(fluoromethyl)morpholino)thiophene-2-carboxamide (38 mg, 56%). LCMS: (FA) ES+ 414, ES− 412; 1H NMR (400 MHz, d1-chloroform) δ: 7.59 (d, 1H), 7.42 (dd, 1H), 7.31 (d, 1H), 6.00 (s, 1H), 4.50 (dd, 2H), 4.12-4.08 (m, 2H), 4.00-3.78 (m, 4H), 3.36-3.25 (m, 1H), 3.22-3.15 (m, 1H)

reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-(2-(fluoromethyl)morpholino)thiophene-2-carboxylic acid | 0.000164 mol, 68.0 mg | C(#N)C=1C(=C(SC1N1CC(OCC1)CF)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C17H13Cl2FN2O3S
reactant | ammonium hydroxide | 0.1416 mL | [OH-].[NH4+]
reactant | EDCI | 0.000491 mol, 94.2 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.1 mol, 7 mL | C(Cl)Cl | CH2Cl2
product | 4-cyano-3-(2,4-dichlorophenyl)-5-(2-(fluoromethyl)morpholino)thiophene-2-carboxamide | 38 mg, 56% | C(#N)C=1C(=C(SC1N1CC(OCC1)CF)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C17H14Cl2FN3O2S
